### PR TITLE
[Merged by Bors] - feat: lemmas about Array.extract

### PR DESCRIPTION
**Pull request by JiechengZhao**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

These lemmas come from my work on trying to prove that if we write something to the memory and the address remains untouched by further writing, we can later read it. The memory is built upon a `byteArray`, and a key operation, 'copyslice,' is defined based on 'extract'.

### CODE REVIEW

**Comment by JiechengZhao** [comment]
@semorrison This is the initial commit of the Array extract part (with two lemma about get).

File: Mathlib/Data/Array/extractLemmas.lean [hunk 1]
```diff
@@ -0,0 +1,142 @@
...
+  exact h2
+  simp at h2
+  rw [extract_end_le_start_size_zero]
+  rw [Nat.sub_eq_zero_of_le]
+  exact Nat.le_of_lt h2
+  exact Nat.le_of_lt h2
+
+@[simp]
+theorem size_of_append {a b : Array α }: (a ++ b).size = a.size + b.size := by
+  simp [size]
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:88]: Surely this exists as `size_append`.

File: Mathlib/Data/Array/extractLemmas.lean [hunk 2]
```diff
@@ -0,0 +1,142 @@
...
+
+theorem get_eq_list_get {a : Array α } {i : Nat} : (h: i < a.size) → (a[i]'h = a.data[i]'h) := by
+  intro h
+  exact rfl
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:92]: Similarly?

File: Mathlib/Data/Array/extractLemmas.lean [hunk 3]
```diff
@@ -0,0 +1,142 @@
...
+
+theorem get_append_only_frist_aux {a b: Array α } (h : i < a.size) : i < (a ++ b).size := by
+  simp only [size_of_append]
+  apply Nat.lt_of_lt_of_le h
+  exact Nat.le_add_right (size a) (size b)
+
+theorem get_append_only_first {a b: Array α } (h : i < a.size):
+    (a ++ b)[i]'(get_append_only_frist_aux h) = a[i] := by
+  simp only [get_eq_list_get, append_data]
+  exact List.get_append i h
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:102]: Can you just write the proof in a `have`? Does `simp only [size_append]; omega` or similar suffice?

**Comment by semorrison** [comment]
I'm not going to have time to review this. But please label as `awaiting-review` when you are ready for someone to have a look.

File: Mathlib/Data/Array/extractLemmas.lean [hunk 4]
```diff
@@ -0,0 +1,142 @@
...
+theorem get_eq_list_get {a : Array α } {i : Nat} : (h: i < a.size) → (a[i]'h = a.data[i]'h) := by
+  intro h
+  exact rfl
+
+theorem get_append_only_frist_aux {a b: Array α } (h : i < a.size) : i < (a ++ b).size := by
+  simp only [size_of_append]
+  apply Nat.lt_of_lt_of_le h
+  exact Nat.le_add_right (size a) (size b)
+
+theorem get_append_only_first {a b: Array α } (h : i < a.size):
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:99]:
```suggestion
theorem get_append_only_first {a b: Array α } (h : i < a.size):
```
Probably should be called `get_append_of_lt`. Similarly below.

File: Mathlib/Data/Array/extractLemmas.lean [hunk 5]
```diff
@@ -0,0 +1,142 @@
...
+
+
+
+theorem extract_mid_split {a: Array α} :
+    i ≤ j → j ≤ k → a.extract i k = a.extract i j ++ a.extract j k := by sorry
+
+theorem extract_start_overflow_eq_empty {a: Array α} (h: s ≥ a.size) :
+    a.extract s e = #[] := by sorry
+
+theorem extract_extract {a : Array α } : (s1 + s2 ≤ a.size) →
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:137]: This would be good to have. (Do you really need any of the inequalities? I suspect if you read off the end it still works.)

File: Mathlib/Data/Array/extractLemmas.lean (hunk 1 above)
Comment (JiechengZhao) [reply Mathlib/Data/Array/extractLemmas.lean:88]: > Surely this exists as `size_append`.

I saw it now. But my question is, why does apply? fail to give me the theorems? Before trying to prove something, I use apply? to see if the theorem already exists. I will only implement the theorem if it fails. But this wasn't the case. Is it because the lemma is in std and I did not import it? What is the right way to search for an already existing lemma? And maybe I did not use loogle correctly, but I cannot find the theorem either.

Comment (JiechengZhao) [reply Mathlib/Data/Array/extractLemmas.lean:88]: I've imported `Std.Data.Array`, and now `apply?` works. Which other libraries should I import, and how can I know that?

File: Mathlib/Data/Array/extractLemmas.lean (hunk 3 above)
Comment (JiechengZhao) [reply Mathlib/Data/Array/extractLemmas.lean:102]: This exists in `Std.Array`; I will rearrange the whole proof based on the existing lemmas.

**Comment by JiechengZhao** [comment]
@semorrison  I have rewritten the proof to make it clearer, shorter and more dependent on existing theorems. Additionally, regarding your suggestion to move this to std or lean, I think std might be a better choice because it utilizes lemmas from the library.

File: Mathlib.lean [hunk 6]
```diff
@@ -1661,6 +1661,7 @@ import Mathlib.Data.Analysis.Topology
 import Mathlib.Data.Array.Basic
 import Mathlib.Data.Array.Defs
 import Mathlib.Data.Array.Lemmas
+import Mathlib.Data.Array.extractLemmas
```
Comment (semorrison) [inline Mathlib.lean:1664]: Files should start with a capital

File: Mathlib/Data/Array/extractLemmas.lean [hunk 7]
```diff
@@ -0,0 +1,119 @@
...
+namespace Array
+
+
+@[simp]
+theorem extract_zero_length {a : Array α} :
+    a.extract i i = #[] := by
+  refine extract_empty_of_stop_le_start a ?h
+  exact Nat.le_refl i
+
+theorem size_extract_to_stop {a: Array α} : (e ≤ a.size) → (a.extract s e).size = e - s := by
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:23]: Should just be called `size_extract`.

Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:23]:
```suggestion
theorem size_extract_to_stop {a : Array α} : (e ≤ a.size) → (a.extract s e).size = e - s := by
```
Consistent spacing before colons.

File: Mathlib/Data/Array/extractLemmas.lean [hunk 8]
```diff
@@ -0,0 +1,119 @@
...
+  · have h' : j ≤ a.size + b.size := by
+      apply Nat.le_trans h
+      exact Nat.le_add_right (size a) (size b)
+    simp only [size_extract, size_append, h', Nat.min_eq_left, h]
+  · intro h1 h2 h3
+    simp only [get_extract]
+    rw [get_append_left]
+
+theorem extract_append_right {a b: Array α} {i j : Nat} (h: i ≥ a.size):
+    (a ++ b).extract i j = b.extract (i - a.size) (j - a.size) := by
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:40]: I'd hope there's an easier argument here, based on comparing the `k`-th element of each side. Do we have the necessary lemmas about `getElem` and `extract`?

File: Mathlib/Data/Array/extractLemmas.lean [hunk 9]
```diff
@@ -0,0 +1,119 @@
...
+        simp only [size_append, h3, Nat.min_eq_left, h4]
+        rw [Nat.sub_sub, Nat.add_comm, Nat.sub_add_cancel h]
+      · have h3': j ≥ a.size + b.size := Nat.le_of_not_ge h3
+        have h4:  j - a.size ≥ b.size := Nat.le_sub_of_add_le' h3'
+        simp only [size_append, h3', Nat.min_eq_right, h4]
+        apply @Nat.add_right_cancel _ (i - a.size)
+        have h5 : i ≤ a.size + b.size := Nat.le_of_succ_le h2
+        have h6 : i - a.size ≤ b.size := Nat.sub_le_iff_le_add'.mpr h5
+        rw [← Nat.add_sub_assoc h, Nat.sub_add_cancel h5, Nat.add_comm,
+          Nat.add_sub_cancel, Nat.sub_add_cancel h6]
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:66]: Does `omega` end the proof earlier? Don't write out tedious `Nat` calculations when `omega` suffices.

File: Mathlib/Data/Array/extractLemmas.lean [hunk 10]
```diff
@@ -0,0 +1,119 @@
...
+    · intro k h4 h5
+      simp only [get_extract, get_append_right (Nat.le_trans h (Nat.le_add_right i k)),
+        Nat.sub_add_comm h]
+
+theorem extract_overflow_eq_extract_to_end {a : Array α} :
+    (a.size ≤ l) →  a.extract p l = a.extract p a.size := by
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:72]: Your names are a bit too creative. This can just be `extract_of_size_le`.

File: Mathlib/Data/Array/extractLemmas.lean [hunk 11]
```diff
@@ -0,0 +1,119 @@
...
+  intro h1 h2
+  apply ext
+  · have hsize1 : s1 + e2 ≤ a.size := Nat.le_trans h1 h2
+    have hsize2 : e2 ≤ e1 - s1 := Nat.le_sub_of_add_le' h1
+    simp only [size_extract, h2, Nat.min_eq_left, hsize2, hsize1]
+    rw [Nat.sub_add_eq, Nat.add_comm, Nat.add_sub_cancel]
+  · intro i h1 h2
+    simp only [get_extract, Nat.add_assoc]
+
+theorem extract_extract {a : Array α }
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:88]:
```suggestion
theorem extract_extract {a : Array α}
```

File: Mathlib/Data/Array/extractLemmas.lean [hunk 12]
```diff
@@ -0,0 +1,119 @@
...
+    (h2 : s1 + e2 ≤ e1) :
+    (a.extract s1 e1).extract s2 e2 = a.extract (s1 + s2) (s1 + e2) := by
```
Comment (semorrison) [inline Mathlib/Data/Array/extractLemmas.lean:90]: Again, I'm skeptical this is the easiest proof. How does it look by comparing the `k`-th elements?

**Comment by semorrison** [comment]
Title of PR should be `feat: lemmas about Array.extract`.

**Comment by JiechengZhao** [comment]
@semorrison, I have simplified the proof based on your suggestion. Please review it again. Omega is very useful. :) By the way, I feel it is not necessary to open a new file since the proof is now very short. However, since you mentioned that you want to deliver it into std., I have not changed the file structure for now.

File: Mathlib/Data/Array/ExtractLemmas.lean [hunk 13]
```diff
@@ -0,0 +1,55 @@
...
+# lemmas about Array.extract
+
+Some useful lemmas about Array.extract
+-/
+set_option autoImplicit true
+
+namespace Array
+
+@[simp]
+theorem extract_zero_length {a : Array α} :
```
Comment (semorrison) [inline Mathlib/Data/Array/ExtractLemmas.lean:17]: Let's rename to `extract_eq_nil_of_start_eq_end`.

File: Mathlib/Data/Array/ExtractLemmas.lean [hunk 14]
```diff
@@ -0,0 +1,55 @@
+/-
+Copyright (c) 2024 Jiecheng Zhao. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jiecheng Zhao
+-/
+import Std.Data.Array.Lemmas
+/-!
+# lemmas about Array.extract
```
Comment (semorrison) [inline Mathlib/Data/Array/ExtractLemmas.lean:8]:
```suggestion
# Lemmas about `Array.extract`
```

File: Mathlib/Data/Array/ExtractLemmas.lean [hunk 15]
```diff
@@ -0,0 +1,55 @@
...
+
+namespace Array
+
+@[simp]
+theorem extract_zero_length {a : Array α} :
+    a.extract i i = #[] := by
+  refine extract_empty_of_stop_le_start a ?h
+  exact Nat.le_refl i
+
+theorem extract_append_left {a b : Array α} {i j : Nat} (h : j ≤ a.size):
```
Comment (semorrison) [inline Mathlib/Data/Array/ExtractLemmas.lean:22]:
```suggestion
theorem extract_append_left {a b : Array α} {i j : Nat} (h : j ≤ a.size) :
```
and below.

File: Mathlib/Data/Array/ExtractLemmas.lean [hunk 16]
```diff
@@ -0,0 +1,55 @@
...
+  · rw [size_extract, size_extract, size_append]
+    omega
+  · intro k hi h2
+    rw [get_extract, get_extract,
+      get_append_right (show size a ≤ i + k by omega)]
+    congr
+    omega
+
+theorem extract_eq_of_size_le_end {a : Array α} :
+    (a.size ≤ l) →  a.extract p l = a.extract p a.size := by
```
Comment (semorrison) [inline Mathlib/Data/Array/ExtractLemmas.lean:42]:
```suggestion
    (a.size ≤ l) → a.extract p l = a.extract p a.size := by
```

File: Mathlib/Data/Array/ExtractLemmas.lean [hunk 17]
```diff
@@ -0,0 +1,55 @@
...
+  intro h
+  simp only [extract, Nat.min_eq_right h, Nat.sub_eq, mkEmpty_eq, Nat.min_self]
+
+theorem extract_extract {a : Array α}
+    (h2 : s1 + e2 ≤ e1) :
```
Comment (semorrison) [inline Mathlib/Data/Array/ExtractLemmas.lean:47]:
```suggestion
theorem extract_extract {a : Array α} (h : s1 + e2 ≤ e1) :
```

**Comment by semorrison** [comment]
Separately, would you mind clicking "resolve" on conversations above where you've already responded? It helps when another reviewer arrives.

**Comment by semorrison** [comment]
Thanks for the contribution, and your patience through the review! :-)
